US07435837B2
(±)-[(N-methyl-1-[7-(3-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine
The title compound was prepared (0.38 g, 53%) following the general procedure of Example 154 as a white solid, hydrochloride salt from (±)-[(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl]methylamine (0.200 g, 0.826 mmol) and 3-fluorophenylboronic acid (0.173 g, 1.24 mmol). mp 160-163° C.

reactant | (±)-[(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl]methylamine | 0.826 mmol, 0.200 g | BrC1=CC=CC=2CC(OC21)CNC | C10H12BrNO
reactant | 3-fluorophenylboronic acid | 1.24 mmol, 0.173 g | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
product | N-methyl-1-[7-(3-fluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | CNCC1OC2=C(C1)C=CC=C2C2=CC(=CC=C2)F | C16H16FNO
